US07345056B2
2-[12-(4-Chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-dien-5-yl]-ethanol
Prepared as described in Example 5 using hydroxyethylhydrazine and 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one which was prepared as described in Example 34.

reactant | hydroxyethylhydrazine | OCCNN | C2H8N2O
reactant | 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)=CO | C15H16ClNO4S
product | 2-[12-(4-Chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-dien-5-yl]-ethanol | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NN(C3CC1CCC2)CCO | C17H20ClN3O3S
